US06437150B1
1-Chloro-3,7-dimethyl-octa-2,6-diene
To a mixture of 170 g linalool and 20 mg bismuth(III)-oxide heated to 60° C., 130.5 g trimethylchlorosilane were added. Then, the mixture was cooled to room temperature and the organic layer was separated. The resulting oil was purified by distillation to yield 158.35 g of a colorless oil.

reactant | linalool | 170 g | C=CC(O)(C)CCC=C(C)C | C10H18O
reactant | trimethylchlorosilane | 130.5 g | C[Si](Cl)(C)C | C3H9ClSi
catalyst | bismuth(III)-oxide | 20 mg | [Bi+]=O
product | 1-Chloro-3,7-dimethyl-octa-2,6-diene | 158.35 g | ClCC=C(CCC=C(C)C)C | C10H17Cl
